US07709519B2
A 25 ml portion of THF solution containing 7.8 g of tetrabutylammonium fluoride and 24 g of Molecular Sieve 4A was stirred at room temperature for 12 hours in an atmosphere of argon. After cooling to 0° C., 20 ml of THF solution containing 300 mg of 3-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3-fluorophenyl)-3-oxopropanoyl]benzaldehyde and 1.7 g of diphenyl(2,2,2-trifluoroethyl)phosphine oxide was added dropwise thereto. This was stirred at room temperature for 5 hours. The reaction mixture was filtered, the filtrate was washed with water, dried with anhydrous sodium sulfate and concentrated, and then the thus formed residue was purified by a silica gel column chromatography to obtain 201 mg (57%) of 2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-1-(3-fluorophenyl)-3-{3-[(1Z)-3,3,3-trifluoroprop-1-en-1-yl]phenyl}propane-1,3-dione as a yellow powder from an ethyl acetate-hexane (1:3) eluate. FA: 463

reactant | tetrabutylammonium fluoride | 7.8 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3-fluorophenyl)-3-oxopropanoyl]benzaldehyde | 300 mg | N1C(NC2=C1C=CC=C2)=C(C(=O)C=2C=C(C=O)C=CC2)C(=O)C2=CC(=CC=C2)F | C23H15FN2O3
reactant | diphenyl(2,2,2-trifluoroethyl)phosphine oxide | 1.7 g | C1(=CC=CC=C1)P(CC(F)(F)F)(C1=CC=CC=C1)=O | C14H12F3OP
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-1-(3-fluorophenyl)-3-{3-[(1Z)-3,3,3-trifluoroprop-1-en-1-yl]phenyl}propane-1,3-dione | 201 mg, 57% | N1C(NC2=C1C=CC=C2)=C(C(=O)C2=CC(=CC=C2)F)C(=O)C2=CC(=CC=C2)\C=C/C(F)(F)F | C25H16F4N2O2
